US06448397B1
To a mixture of 8,8-dichloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one (0.4072 g, 1.09 mmol) in DMF (5 mL) is added lithium carbonate (0.242 g, 3.27 mmol) and lithium chloride (0.143 g, 3.39 mmol). The mixture is heated under an argon atmosphere at 120° C. for 1 h and then partitioned between water and CH2C2. The organic layer is washed twice with water (20 mL), dried over magnesium sulfate and concentrated. Column chromatography (50 g silica gel) using ethyl acetate/hexane (20/80) as eluent gave 0.2876 g (78%) of 8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol.

reactant | 8,8-dichloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 1.09 mmol, 0.4072 g | ClC1(CCC=2N3C4=C(C=CC=C4C2C1=O)OCC3C3=CC=CC=C3)Cl | C20H15Cl2NO2
reactant | lithium carbonate | 3.27 mmol, 0.242 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium chloride | 3.39 mmol, 0.143 g | [Cl-].[Li+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 8-chloro-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 0.2876 g, 78% | ClC1=CC=C2N3C4=C(C=CC=C4C2=C1O)OCC3C3=CC=CC=C3 | C20H14ClNO2
